US07615642B2
Step B: tert-butyl 1H-pyrazol-3-ylcarbamate
Di-tert-butyl dicarbonate (1.83 g, 8.4 mmol) was added to a solution of 1H-pyrazol-3-amine (0.58 g, 7.0 mmol) in THF (15 mL). The reaction mixture was stirred over weekend at room temperature. After evaporation of the solvent, the crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 0.84 g (66%) of a white solid as the title compound. 1H NMR (400 MHz, DMSO-D6) δ 1.47 (s, 9 H), 3.28 (s, 2 H), 5.74 (d, J=2.93 Hz, 1 H), 7.80 (d, J=2.73 Hz, 1 H); MS (ESI) (M+H)+=183.8.

reactant | Di-tert-butyl dicarbonate | 8.4 mmol, 1.83 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1H-pyrazol-3-amine | 7.0 mmol, 0.58 g | N1N=C(C=C1)N | C3H5N3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl 1H-pyrazol-3-ylcarbamate | 0.84 g, 66% | N1N=C(C=C1)NC(OC(C)(C)C)=O | C8H13N3O2
